US07381719B2
4-(5-Cyano-pyridin-2-yloxy)-benzamide
Combine 6-chloro-nicotinonitrile (1.0 g, 7.22 mmol), 4-hydroxybenzamide (1.09 g, 7.94 mmol), and potassium carbonate (1.49 g, 10.83 mmol) in toluene (8 mL). Add DMA (24 mL) to the reaction mixture. Heat the reaction mixture for 1.5 hour at 120° C. Let the reaction mixture cool to room temperature. Pour the reaction mixture onto water and filter the precipitate washing with water. Dry the solid under vacuum to provide the title compound (1.63 g, 94%)

reactant | 6-chloro-nicotinonitrile | 7.22 mmol, 1.0 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 4-hydroxybenzamide | 7.94 mmol, 1.09 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | potassium carbonate | 10.83 mmol, 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMA | 24 mL | CC(=O)N(C)C | C4H9NO
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Cyano-pyridin-2-yloxy)-benzamide | 1.63 g, 94% | C(#N)C=1C=CC(=NC1)OC1=CC=C(C(=O)N)C=C1 | C13H9N3O2
